US05523463
41.7 ml of a 2.6 molar solution of hexyllithium in hexane were added dropwise at -80° C. to a solution of 9.50 g of methyl (S)-2-methoxycarbonylamino-3-phenyl-propionate and 3.22 ml of bromochloromethane in 60 ml of tetrahydrofuran. Subsequently, a further 2.14 ml of bromochloromethane were added and the mixture was again treated with 23 ml of hexyllithium solution, a further 1.54 ml of bromochloromethane were added and the mixture was again treated with 7.7 ml of hexyllithium solution. The solution was treated at -80° C. with 15 ml of 20% methanolic hydrochloric acid, warmed to 22° and diluted with 100 ml of water and 40 ml of tetrahydrofuran. The phases were separated, the organic phase was washed with saturated sodium chloride solution, dried and concentrated. The residue was recrystallized from 40 ml of ethyl acetate and 160 ml of hexane and the crystallizate was dried, yielding 3.83 g (37%) of pure methyl (S)-(1-benzyl-3-chloro-2-oxo-propyl)-carbamate, m.p. 121°-122° C. IR (KBr): 3336s (NH), 1737s and 1686s (C=O), 1535s (amide II).

reactant | hexyllithium | C(CCCCC)[Li]
reactant | methyl (S)-2-methoxycarbonylamino-3-phenyl-propionate | 9.50 g | COC(=O)N[C@H](C(=O)OC)CC1=CC=CC=C1 | C12H15NO4
reactant | bromochloromethane | 3.22 ml | BrCCl | CH2BrCl
reactant | bromochloromethane | 2.14 ml | BrCCl | CH2BrCl
reactant | hexyllithium | 23 ml | C(CCCCC)[Li]
reactant | bromochloromethane | 1.54 ml | BrCCl | CH2BrCl
reactant | hexyllithium | 7.7 ml | C(CCCCC)[Li]
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | methyl (S)-(1-benzyl-3-chloro-2-oxo-propyl)-carbamate | 3.83 g, 37% | C(C1=CC=CC=C1)[C@@H](C(CCl)=O)NC(OC)=O | C12H14ClNO3
